US09227956B2
Step 2: tert-butyl (3R)-3-[(2-oxidoisoquinolin-1-yl)amino]piperidine-1-carboxylate
To a solution of the compound from Step 2 1-chloroisoquinoline 2-oxide (1.2 g, 6.68 mmol) and tert-butyl (3R)-3-aminopiperidine-1-carboxylate (2.0 g, 10.02 mmol) in n-BuOH (20 mL) was added DIPEA (0.95 g, 7.35 mmol) and DMAP (81 mg, 0.668 mmol). The mixture was stirred at 120° C. for 16 h. The mixture was then poured into water (20 mL) and extracted with EtOAc (3×10 mL). The combined layers organic were dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The crude product was purified by silica gel flash column chromatography eluting with a gradient of petroleum ether: EtOAc (1:1 to 0:1) to afford the title compound (0.8 g, 35%).

reactant | 1-chloroisoquinoline 2-oxide | 6.68 mmol, 1.2 g | ClC1=[N+](C=CC2=CC=CC=C12)[O-] | C9H6ClNO
reactant | tert-butyl (3R)-3-aminopiperidine-1-carboxylate | 10.02 mmol, 2.0 g | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 7.35 mmol, 0.95 g | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 20 mL | O | H2O
solvent | n-BuOH | 20 mL | CCCCO | C4H10O
catalyst | DMAP | 0.668 mmol, 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl (3R)-3-[(2-oxidoisoquinolin-1-yl)amino]piperidine-1-carboxylate | 0.8 g, 35% | [O-][N+]1=C(C2=CC=CC=C2C=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C19H25N3O3
